US08835484B2
3-(4-Sulfobutyl)-1,1,2-trimethyl-1H-benzo[e]indole (2t)
1,1,2-Trimethylbenzo[e]indole (1.0 g, 4.8 mmol) and 1,4-butane sultone (0.50 mL, 4.8 mmol) were heated for 2.5 h at 130° C., filtered off after cooling, washed with acetone and dried for 3 h at 100° C. Yield: 1.13 g (70%) gray-white solid, melting point 263° C. (Lit. review: H. Langhals, C. Haritoglou, Der Ophthalmologe 2009, 106, 16-20: 266° C.). IR (ATR): {tilde over (ν)}=3435 (m), 2939 (w), 1636 (w), 1584 (w), 1523 (w), 1468 (m), 1199 (s), 1034 (s), 872 (w), 824 (m), 791 (w), 758 (m), 737 cm−1 (w). 1H NMR (400 MHz, CD3OD): δ=8.32 (d, 1H, Haromatic, 3J=8.5 Hz), 8.24 (d, 1H, Haromatic, 3J=8.9 Hz), 8.16 (d, 1H, Haromatic, 3J=8.2 Hz), 8.06 (d, 1H, Haromatic, 3J=9.0 Hz), 7.80 (ddd, 1H, Haromatic, 4J=1.3 Hz, 3J=6.9 Hz, 3J=8.4 Hz), 7.71 (ddd, 1H, Haromatic, 4J=1.1 Hz, 3J=6.9 Hz, 3J=8.1 Hz), 4.70-4.64 (m, 2H, NCH2), 2.91 (t, 2H, CH2SO3−, 3J=7.1 Hz), 2.26-2.18 (m, 2H, CH2), 2.03-1.94 (m, 2H, CH2), 1.84 (s, 6H, 2×CH3), 1.30 ppm (s, 3H, CH3). 13C NMR (100 MHz, CD3OD): δ=196.6, 138.7, 137.5, 134.1, 131.3, 129.9, 128.5, 127.9, 127.5, 123.2, 112.7, 56.1, 49.9, 26.4, 23.0, 22.1, 21.2 ppm. HRMS (ESI) (C19H24NO3S): calculated 346.1471. found 346.1473, Δ=0.2 mmu.

reactant | 1,1,2-Trimethylbenzo[e]indole | 4.8 mmol, 1.0 g | CC1(C(=NC=2C=CC3=C(C12)C=CC=C3)C)C | C15H15N
reactant | 1,4-butane sultone | 4.8 mmol, 0.50 mL | C1CCS(=O)(=O)OC1 | C4H8O3S
product | 3-(4-Sulfobutyl)-1,1,2-trimethyl-1H-benzo[e]indole | S(=O)(=O)(O)CCCCN1C(C(C=2C3=C(C=CC12)C=CC=C3)(C)C)C | C19H25NO3S
